2136-01-17 10:13:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: hypercarbic respiratory failure, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2136-1-16**] 01:17 PM
 EKG - At [**2136-1-16**] 09:37 PM
 FEVER - 101.2
F - [**2136-1-16**] 09:00 PM
       -pan cx
       -started on abx
 Episode tachycardia 160s, hemodyn stable, rx dilt with resolution
   History obtained from [**Hospital 85**] Medical records, resident translated
   Allergies:
   Streptomycin
   Swelling;
   Versed (Injection) (Midazolam Hcl)
   cardiac arrest;
   Fentanyl
   cardiac arrest;
   Last dose of Antibiotics:
   Ceftriaxone - [**2136-1-16**] 10:57 PM
   Infusions:
   Other ICU medications:
   Naloxone (Narcan) - [**2136-1-16**] 03:00 PM
   Diltiazem - [**2136-1-16**] 10:00 PM
   Furosemide (Lasix) - [**2136-1-17**] 12:41 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2136-1-17**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**38**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.2
C (98.9
   HR: 88 (84 - 150) bpm
   BP: 148/70(87) {92/45(54) - 148/74(87)} mmHg
   RR: 20 (15 - 25) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 58 Inch
             Total In:
                                                                    349 mL
                                                                    246 mL
   PO:
             TF:
   IVF:
                                                                     79 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                  1,350 mL
   Urine:
                                                                  2,110 mL
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,002 mL
                                                                 -1,104 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 335 (200 - 335) mL
   Vt (Spontaneous): 342 (335 - 342) mL
   PC : 20 cmH2O
   RR (Spontaneous): 24
   PEEP: 12 cmH2O
   FiO2: 35%
   PIP: 23 cmH2O
   SpO2: 95%
   ABG: 7.33/72/42/34/8
   Ve: 7.8 L/min
   PaO2 / FiO2: 120
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: moderately), prolonged
   exp phase
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   56 mg/dL
   1.5 mg/dL
   34 mEq/L
   3.9 mEq/L
   31 mg/dL
   100 mEq/L
   143 mEq/L
        [image002.jpg]
                             [**2136-1-16**]  01:16 PM
                             [**2136-1-16**]  02:28 PM
                             [**2136-1-16**]  06:45 PM
                             [**2136-1-16**]  09:57 PM
                             [**2136-1-16**]  10:10 PM
   Cr
   1.5
   1.5
   TropT
   <0.01
   <0.01
   TCO2
   36
   38
   40
   Glucose
   52
   56
   Other labs: CK / CKMB / Troponin-T:55/2/<0.01, Lactic Acid:0.8 mmol/L,
   Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   71F OSA, pHTN, DHF, chronic low back pain, presents with worsened low
   back pain and acute on chronic respiratory failure
    //Acute on chronic respiratory failure
   -Suspect that pt is borderline compensated at baseline
 has evidence
   of chronic CO2 retention likely due to obesity hypoventilation, pHTN,
   OSA, dCHF.  Of note, pt has gained considerable weight over the past
   few months, likely related to increased salt and po intake and volume
   overload.
   -Acute decompensation could be caused by a number of factors alone or
   in combination; continued chronic decompensation reaching point of
   acute decompensation, pulmonary edema related to myocardial ischemia or
   previous silent infarct, infection (though WBC nl, no fevers, no
   productive cough)
   -Benefited from mask ventilation overnight - doing much better today
   able to avert intubation
   -Diuresing
   -spiked overnight, apparent new lt infiltrate on film.  Treat for CAP
   empirically pending cx data guidance
   -repeat ABG
   -send SCx/GS if produces
   //Low back pain
   -appears to be her chronic low back pain
   -known compression fx, no new fx noted on films this admission
   -avoid narcotics
    //  Acute on Chronic renal failure:
    - likely [**2-7**] volume overload (cr got wose in setting of holding lasix)
    - cont diuresis
   // DHF:
    - continue diuresis
    - TTE if difficulty diuresing
    - r/o MI
   // DM2:
    - RISS
   // Afib/tachyarrythmia
    - cont lopressor and diltiazem
    - holding coumadin for until INR therapeutic range
   Remainder of plan per Dr. [**Last Name (STitle) 8153**]
s note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2136-1-16**] 12:57 PM
   22 Gauge - [**2136-1-16**] 04:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2136-01-18 10:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - given lasix 80 mg IV x 1, by 5 Pm was -1.3L; given add'l 80 mg IV x 1
   - this AM was slightly somnolent, ABG checked but pCO2 58- possibly
   just fatigue from lack of sleep
   - did not use CPAP mask all night due to discomfort, may need nasal
   mask instead of pillows
   Allergies:
   Streptomycin
   Swelling;
   Versed (Injection) (Midazolam Hcl)
   cardiac arrest;
   Fentanyl
   cardiac arrest;
   Last dose of Antibiotics:
   Ceftriaxone - [**2136-1-16**] 10:57 PM
   Levofloxacin - [**2136-1-17**] 11:09 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2136-1-17**] 08:06 PM
   Dextrose 50% - [**2136-1-18**] 04:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-1-18**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**38**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.7
C (96.2
   HR: 86 (76 - 106) bpm
   BP: 111/55(68) {90/39(35) - 132/59(74)} mmHg
   RR: 17 (15 - 27) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 58 Inch
                  Total In:
                                                                  1,471 mL
                                                                    125 mL
   PO:
                                                                  1,220 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    101 mL
   Blood products:
   Total out:
                                                                  2,845 mL
                                                                    395 mL
   Urine:
                                                                  2,845 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,375 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.41/58/165/38/10
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), irregularly irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   L>R, Wheezes : scattered; bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   151 K/uL
   7.5 g/dL
   48 mg/dL
   1.4 mg/dL
   38 mEq/L
   3.7 mEq/L
   27 mg/dL
   98 mEq/L
   142 mEq/L
   24.8 %
   6.9 K/uL
        [image002.jpg]
                             [**2136-1-16**]  01:16 PM
                             [**2136-1-16**]  02:28 PM
                             [**2136-1-16**]  06:45 PM
                             [**2136-1-16**]  09:57 PM
                             [**2136-1-16**]  10:10 PM
                             [**2136-1-17**]  04:03 PM
                             [**2136-1-18**]  03:51 AM
                             [**2136-1-18**]  05:27 AM
   WBC
   9.4
   6.9
   Hct
   24.9
   24.8
   Plt
   147
   151
   Cr
   1.5
   1.5
   1.4
   1.4
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   36
   38
   40
   38
   Glucose
   52
   56
   97
   48
   Other labs: PT / PTT / INR:29.9/31.5/3.0, CK / CKMB /
   Troponin-T:51/2/<0.01, Lactic Acid:0.8 mmol/L, Ca++:8.4 mg/dL, Mg++:2.1
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   71 year-old Russain speaking woman with obesity, DM2, CKD, dCHF,
   obstructive sleep apnea, and AF who was admitted for management of
   acute on chronic lower back pain and is transferred to the MICU for
   somnolence and hypercapneic respiratory failure.
   # Acute on chronic hypercapneic respiratory failure:  Patient has OSA
   at baseline, patient of Dr. [**Last Name (STitle) 984**], and was on cpap at home but did
   not use prior to arrival.  Possibly component of non-use of CPAP vs
   volume overload, vs sedating medications (gabapentin).  Improved ABG
   with CPAP, though last night did not use it the whole night due to
   discomfort
   - d/w respiratory if can use nasal mask vs pillows
   - PO diuresis now
   - avoid sedating medications
   - outpatient f/u with Dr. [**Last Name (STitle) 984**] (has not been seen since [**2133**])
   .
   # Acute on chronic kidney injury:  baseline creatinine of ~1.4 with
   rise in setting of not receiving lasix and pulm edema on cxr.  FeUrea
   28% but appears clinically overloaded.
   - lasix for I/0 goal -500 cc
   - renally dose meds
   - recheck CHM 7/creatinine
   .
   # dCHF:  has pulm edema, likely in setting of not receiving lasix.
   - lasix for I/O goal -500 cc to 1L
   - consider recheck ECHO if no improvement with diuresis
   .
   # Atrial fibrillation:
   - continue dilt, metoprolol
   - hold warfarin given supratherapeutic INR
   - consider low dose vitamin k
   .
   # DM:
   - ISS
 ATRIAL FIBRILLATION (AFIB)
 OBSTRUCTIVE SLEEP APNEA (OSA)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2136-1-18**] 05:03 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2136-01-18 10:25:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: hypercarbic respiratory failure, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - no events
   History obtained from [**Hospital 85**] Medical records, via resident
   translating
   Allergies:
   Streptomycin
   Swelling;
   Versed (Injection) (Midazolam Hcl)
   cardiac arrest;
   Fentanyl
   cardiac arrest;
   Last dose of Antibiotics:
   Ceftriaxone - [**2136-1-16**] 10:57 PM
   Levofloxacin - [**2136-1-17**] 11:09 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2136-1-17**] 08:06 PM
   Dextrose 50% - [**2136-1-18**] 04:56 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-1-18**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**38**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.7
C (96.2
   HR: 83 (76 - 105) bpm
   BP: 102/58(64) {90/39(35) - 132/59(74)} mmHg
   RR: 19 (15 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 58 Inch
                  Total In:
                                                                  1,471 mL
                                                                    365 mL
   PO:
                                                                  1,220 mL
                                                                    340 mL
   TF:
   IVF:
                                                                    101 mL
   Blood products:
   Total out:
                                                                  2,845 mL
                                                                    515 mL
   Urine:
                                                                  2,845 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,375 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.41/58/165/38/10
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), irreg irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   exp, Diminished: diffusely), prolonged exp phase
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   151 K/uL
   48 mg/dL
   1.4 mg/dL
   38 mEq/L
   3.7 mEq/L
   27 mg/dL
   98 mEq/L
   142 mEq/L
   24.8 %
   6.9 K/uL
        [image002.jpg]
                             [**2136-1-16**]  01:16 PM
                             [**2136-1-16**]  02:28 PM
                             [**2136-1-16**]  06:45 PM
                             [**2136-1-16**]  09:57 PM
                             [**2136-1-16**]  10:10 PM
                             [**2136-1-17**]  04:03 PM
                             [**2136-1-18**]  03:51 AM
                             [**2136-1-18**]  05:27 AM
   WBC
   9.4
   6.9
   Hct
   24.9
   24.8
   Plt
   147
   151
   Cr
   1.5
   1.5
   1.4
   1.4
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   36
   38
   40
   38
   Glucose
   52
   56
   97
   48
   Other labs: PT / PTT / INR:29.9/31.5/3.0, CK / CKMB /
   Troponin-T:51/2/<0.01, Lactic Acid:0.8 mmol/L, Ca++:8.4 mg/dL, Mg++:2.1
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
    //Acute on chronic respiratory failure
   -Pt borderline compensated at baseline
 has evidence of chronic CO2
   retention likely due to obesity hypoventilation, pHTN, OSA, dCHF.  Of
   note, pt has gained considerable weight over the past few months,
   likely related to increased salt and po intake and volume overload.
   -Acute decompensation could be caused by a number of factors alone or
   in combination; continued chronic decompensation reaching point of
   acute decompensation, pulmonary edema related to myocardial ischemia or
   previous silent infarct, infection (though WBC nl, no fevers, no
   productive cough)
   -able to avert intubation with mask ventilation
   -Diuresing
   //CAP
   -new lt infiltrate
   -Treat for CAP empirically pending cx data guidance
   -afeb
   //Low back pain
   -appears to be her chronic low back pain
   -known compression fx, no new fx noted on films this admission
   -avoid narcotics
    //  Acute on Chronic renal failure:
    - likely [**2-7**] volume overload (cr got wose in setting of holding lasix)
    - cont diuresis
   // DHF:
    - continue diuresis
    - r/o MI
   // DM2:
    - RISS
    // Afib/tachyarrythmia
    - cont lopressor and diltiazem
    - holding coumadin for until INR therapeutic range
   Remainder of plan per Dr. [**Last Name (STitle) 8153**]
s note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2136-1-18**] 05:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: